US03962351
To 1.26 g. (0.01 moles) of 1-octyn-3-ol in 8 ml. in dry heptane was added dropwise 6.18 ml. (0.03 moles) of triisobutylaluminum at 10°-15° C.; 1.82 ml. (0.01 moles) of diisobutylaluminum hydride was then added and the reaction mixture was heated at 50°-55° C. for 2 hours. The solution was then cooled and the heptane removed under reduced pressure. The residue obtained was diluted with 12 ml. of dry tetrahydrofuran. After cooling the solution to -50° C., 10.26 g. (0.04 moles) of iodine in 16 ml. of dry tetrahydrofuran was added dropwise. The dark solution was warmed to room temperature and the alane was decomposed at 20°-30° C. with 20% H2SO4. After the isobutane evolution had diminished, the reaction mixture was poured into ice and extracted four times with pentane. The pentane extract was washed successively with saturated NaHCO3, sodium thiosulfate, saturated NaHCO3 and saturated NaCl solutions. After drying the pentane over MgSO4, it was evaporated to give a dark oil. To remove the iodo-3-hydroxyoctane, the mixture was heated for 16 hours at 90° C. with 0.005 moles of triethylamine. The excess triethylamine was evaporated off and water was added to the residue. Most of the dark oily residue dissolved in the aqueous layer and the total mixture was extracted with pentane. The pentane extract was washed with dilute hydrochloric acid, saturated sodium bicarbonate and saturated sodium chloride solutions and dried over magnesium sulfate. After evaporation of the pentane, the residue was distilled in vacuo to yield pure 3-hydroxy-1-iodo-1-trans-octene (40-50% molar basis). Some 1-octyn-3-ol was recovered.

reactant | 1-octyn-3-ol | 0.01 moles | C#CC(CCCCC)O | C8H14O
reactant | triisobutylaluminum | 0.03 moles | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | diisobutylaluminum hydride | 0.01 moles | [H-].C(C(C)C)[Al+]CC(C)C
reactant | iodine | 0.04 moles | II | I2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | isobutane | CC(C)C | C4H10
reactant | triethylamine | 0.005 moles | C(C)N(CC)CC | C6H15N
solvent | heptane | CCCCCCC | C7H16
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-hydroxy-1-iodo-1-trans-octene | 40-50% | OC(/C=C/I)CCCCC | C8H15IO
